US09428528B2
Step 1 Preparation of tert-butyl 2-(5-bromopyridin-2-yl)-1-hydroxypropan-2-ylcarbamate
A solution of 2-amino-2-(5-bromopyridin-2-yl)propan-1-ol (264 mg, 0.99 mmol) in DCM (10 ml) is treated with di-tert-butyl dicarbonate (237 mg, 1.08 mmol) and triethylamine (0.275 ml, 1.97), and stirred at ambient temperature for 16 h. The reaction mixture is washed with 10% aqueous citric acid solution (25 ml). The organic phase is dried over anhydrous magnesium sulfate, filtered and concentrated to afford the title compound (165 mg): m/z M+H 332.1. Retention time 2.61 min.

reactant | 2-amino-2-(5-bromopyridin-2-yl)propan-1-ol | 0.99 mmol, 264 mg | NC(CO)(C)C1=NC=C(C=C1)Br | C8H11BrN2O
reactant | di-tert-butyl dicarbonate | 1.08 mmol, 237 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.275 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-(5-bromopyridin-2-yl)-1-hydroxypropan-2-ylcarbamate | 165 mg | BrC=1C=CC(=NC1)C(CO)(C)NC(OC(C)(C)C)=O | C13H19BrN2O3
